US05552298
5-Hydroxy-2,3-dihydrophthalazine-1,4-dione.
3-Hydroxyphthalic anhydride (2.0 g, 12.2 mmol, Aldrich) was stirred with 25 mL of glacial acetic acid until nearly all dissolved. Hydrazine (8.4 mL, 268 mmol) was added dropwise to the mixture. The reaction mixture fumed and became homogeneous with development of a yellow color. After a few minutes, a white precipitate formed and the yellow color faded. The mixture was stirred for three days and then filtered. The solids were washed with 150 mL of water followed by 125 mL of acetonitrile and allowed to dry in the air and then under vacuum. Yield: 2.06 g (95%). 1H NMR (DMSO-d6): δ 12.83 (s, 1H), 12.06 (s, 1H), 11.68 (s, 1H), 7.76-7.70 (t, 1H), 7.34-7.31 (d, 1H), 7.14-7.12 (d, 1H); 13C NMR (DMSO-d6): δ 163.04, 160.68, 152.74, 136.37, 126.38, 118.34, 114.50, 113.76; MS: (m/e) 178 (M+), 148, 120, 92.

reactant | 3-Hydroxyphthalic anhydride | 12.2 mmol, 2.0 g | OC1=C2C(C(=O)OC2=O)=CC=C1 | C8H4O4
reactant | Hydrazine | 268 mmol, 8.4 mL | NN | H4N2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-2,3-dihydrophthalazine-1,4-dione | OC1=C2C(NNC(C2=CC=C1)=O)=O | C8H6N2O3
